US05441971
Acetic anhydride (25 ml) was added to a solution of 5-[4-[2-[5-(1-hydroxyethyl)-2-pyridyl]ethoxy]benzyl]-2,4-thiazolidinedione (8.7 g) in dimethyl sulfoxide (100 ml). The mixture was allowed to stand at room temperature for 4 days. The reaction mixture was poured into water and extracted with ethyl acetate. The ethyl acetate layer was washed with water, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The oily residue was subjected to silica gel column chromatography. A fraction eluted with chloroform-methanol (100:1, v/v) gave 5-[4-[2-(5-acetyl-2-pyridyl)ethoxy]benzyl]-2,4-thiazolidinedione. This compound was recrystallized from ethanol to obtain colorless prisms, m.p. 114°-115° C.

reactant | Acetic anhydride | 25 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | 5-[4-[2-[5-(1-hydroxyethyl)-2-pyridyl]ethoxy]benzyl]-2,4-thiazolidinedione | 8.7 g | OC(C)C=1C=CC(=NC1)CCOC1=CC=C(CC2C(NC(S2)=O)=O)C=C1 | C19H20N2O4S
reactant | water | O | H2O
solvent | dimethyl sulfoxide | 100 ml | CS(=O)C | C2H6OS
product | 5-[4-[2-(5-acetyl-2-pyridyl)ethoxy]benzyl]-2,4-thiazolidinedione | C(C)(=O)C=1C=CC(=NC1)CCOC1=CC=C(CC2C(NC(S2)=O)=O)C=C1 | C19H18N2O4S
